US07893056B2
A solution of tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (597 mg, 1.15 mmol) in MeOH (5 mL) and 4.0M HCl in dioxane (5 mL) was stirred at room temperature overnight. After filtering away the precipitate, the solvent was removed in vacuo, providing the crude 2-chloro-5-fluoro-6-hydrazino-N-(1-methylethyl)-4-pyrimidinamine, presumably as the tri-HCl salt. LCMS: (M+H)+: 219.9.

reactant | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 1.15 mmol, 597 mg | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NC(C)C)Cl)C(=O)OC(C)(C)C | C22H35ClFN5O6
solvent | MeOH | 5 mL | CO | CH4O
solvent | HCl | 4.0M | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-5-fluoro-6-hydrazino-N-(1-methylethyl)-4-pyrimidinamine | ClC1=NC(=C(C(=N1)NC(C)C)F)NN | C7H11ClFN5
